US08053436B1
(±)-4-[3-(3,6-Dichlorocarbazol-9-yl)-2-hydroxypropyl]-piperazine-1-carboxylic tert-butyl ester
The same method as employed in the preparation of Example 1 but starting from 3,6-dichloro-9H-carbazole and (±)-4-oxiranylmethyl-piperazine-1-carboxylic acid tert-butyl ester gives after flash chromatography the title compound as a white foam in a 74% yield.

reactant | 3,6-dichloro-9H-carbazole | ClC=1C=CC=2NC3=CC=C(C=C3C2C1)Cl | C12H7Cl2N
reactant | (±)-4-oxiranylmethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1OC1 | C12H22N2O3
product | (±)-4-[3-(3,6-Dichlorocarbazol-9-yl)-2-hydroxypropyl]-piperazine-1-carboxylic tert-butyl ester | 74% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(CN1C2=CC=C(C=C2C=2C=C(C=CC12)Cl)Cl)O | C24H29Cl2N3O3
